US06329389B1
N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide
2-Oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid (8.56 g), dimethylamine hydrochloride (4.60 g), HOBt (7.18 g), WSC (11.1 g) and triethylamine (20 ml) were added to acetonitrile (400ml). The reaction mixture was stirred at room temperature for 43 hours. 10% aqueous citric acid solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crude crystals were washed with IPE to give the entitled compound (9.486 g).

reactant | 2-Oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 8.56 g | O=C1NC2=CC=CC=C2CC1C(=O)O | C10H9NO3
reactant | dimethylamine hydrochloride | 4.60 g | Cl.CNC
reactant | HOBt | 7.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 11.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 400ml | C(C)#N | C2H3N
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 9.486 g | CN(C(=O)C1C(NC2=CC=CC=C2C1)=O)C | C12H14N2O2
